US09376441B2
Following general procedure A, starting from (R)-4-((R)-1-((6-chloro-3-methyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (63 mg), and 1,4,4-trimethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d][1,3]oxazin-2(4H)-one (67 mg), 55 mg of 1,4,4-trimethyl-7-(3-methyl-4-4R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)-1H-benzo[d][1,3]oxazin-2(4H)-one was synthesized.

reactant | (R)-4-((R)-1-((6-chloro-3-methyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | ClC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C | C13H15ClN4O2
reactant | 1,4,4-trimethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d][1,3]oxazin-2(4H)-one | 67 mg | CN1C(OC(C2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C)(C)C)=O | C17H24BNO4
product | 1H-benzo[d][1,3]oxazin-2(4H)-one | N1C(OCC2=C1C=CC=C2)=O | C8H7NO2
